US08304419B2
To a solution of methyl 3-chloro-4-[(methylamino)carbonyl]-1H-pyrrole-2-carboxylate (0.04 g, 0.185 mmol) in THF (3 mL) and water (1 mL) was added lithium hydroxide (0.044 g, 1.847 mmol). The reaction mixture was stirred overnight at 35° C. The solvent was evaporated and the resulting solid placed under high vacuum. To the intermediate mixture was added DMF (1 mL), HATU (0.084 g, 0.222 mmol), DIPEA (0.048 ml, 0.277 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.057 g, 0.185 mmol). The solution was stirred for 1.5 h at RT. Purification was accomplished by HPLC. The desired fractions were neutralized with saturated sodium bicarbonate, extracted with EtOAc (3×5 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated to afford 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4-methyl-1H-pyrrole-2,4-dicarboxamide (0.028 g, 31% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.14 (br. s., 1H) 8.13 (t, 1H) 7.81 (d, 1H) 7.74-7.79 (m, 1H) 7.44-7.53 (m, 3H) 7.35 (t, 1H) 7.40 (d, 1H) 4.54 (d, 2H) 2.68 (d, 3H). MS: m/z 495.1 (M+1).

reactant | methyl 3-chloro-4-[(methylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.185 mmol, 0.04 g | ClC1=C(NC=C1C(=O)NC)C(=O)OC | C8H9ClN2O3
reactant | lithium hydroxide | 1.847 mmol, 0.044 g | [OH-].[Li+]
reactant | HATU | 0.222 mmol, 0.084 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.277 mmol, 0.048 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.185 mmol, 0.057 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4-methyl-1H-pyrrole-2,4-dicarboxamide | 0.028 g, 31% yield | ClC1=C(NC=C1C(=O)NC)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C21H14Cl3FN4O3
